US07227035B2
Synthesis of N-(2-Benzoyl-4-chloro-phenyl)-3-cyano-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using (2-amino-5-chloro-phenyl)-phenyl-methanone and 3-Cyano-benzenesulfonyl chloride. 1H NMR (CDCl3): δ 7.39–7.45 (m, 6H), 7.53–7.62 (m, 3H), 7.43 (d, J=8.4 Hz, 1H), 7.91 (bs, 2H), 9.77 (s, 1H). MS: m/z 396.9 (M++1).

reactant | (2-amino-5-chloro-phenyl)-phenyl-methanone | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=CC=C1 | C13H10ClNO
reactant | 3-Cyano-benzenesulfonyl chloride | C(#N)C=1C=C(C=CC1)S(=O)(=O)Cl | C7H4ClNO2S
product | N-(2-Benzoyl-4-chloro-phenyl)-3-cyano-benzenesulfonamide | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)NS(=O)(=O)C1=CC(=CC=C1)C#N | C20H13ClN2O3S
